US05614527
The thus obtained crude oily substance was mixed with 3.07 g of S-methyl-N-nitroisothiourea, 0.1 g of dimethylaminopyridine (DMAP) and 30 ml of ethanol, and the mixture was refluxed. After the completion of reaction, ethyl acetate was added, and insolubles were then removed by filtration. The filtrate was concentrated under a reduced pressure to precipitate crystals, and the thus precipitated crystals were then removed by filtration. Next, the filtrate was concentrated under a reduced pressure to obtain an oily substance, and this oily substance was then purified by silica gel column chromatography (1:2 acetone/ethyl acetate) to obtain 1.04 g of 1-[(tetrahydro-3-furanyl)methyl]-2-(nitroimino)imidazolidine as a pale yellow oil.

reactant | S-methyl-N-nitroisothiourea | 3.07 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | dimethylaminopyridine | 0.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(tetrahydro-3-furanyl)methyl]-2-(nitroimino)imidazolidine | 1.04 g | O1CC(CC1)CN1C(NCC1)=N[N+](=O)[O-] | C8H14N4O3
